US04948794
A solution of 3.1 g (11 mmol) 1-cyclohexyl-7-chlorquinoxaline-2,3(1H,4H)-dione in 100 ml concentrated sulfuric acid (95-97%) was ice-cooled and then added 1.1 g (11 mmol) potassium nitrate. Stirring was continued at 0° C. for 30 min. and then at 25° C. for 17 h. The reaction mixture was poured into 500 ml ice-water. The precipitate was filtered off and washed with water to give 3.0 g (82%) 1-cyclohexyl-6-nitro-7-chlorquinoxaline-2,3(1H,4H)-dione. M.p. (DSC): decomp. 1H-NMR (DMSO-d6): 12.2 (1H, broad s), 7.9 (2H, s), 4.0-1.0 (11H, m).

reactant | 1-cyclohexyl-7-chlorquinoxaline-2,3(1H,4H)-dione | 11 mmol, 3.1 g | C1(CCCCC1)N1C(C(NC2=CC=C(C=C12)Cl)=O)=O | C14H15ClN2O2
reactant | potassium nitrate | 11 mmol, 1.1 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1-cyclohexyl-6-nitro-7-chlorquinoxaline-2,3(1H,4H)-dione | 3.0 g, 82% | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)Cl)[N+](=O)[O-])=O)=O | C14H14ClN3O4
